US05486515
2-(2,2-bis(Difluoromethyl)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-4-yl)pyridine-N-oxide.
2-(2,2-bis(difluoromethyl)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-4-yl)pyridine (1.32 g) 50% m-chloroperbenzoic acid (2.56 g), sodium bicarbonate (1.26 g), 1,2-dichloroethane (12 mL), water (12 mL), and butylhydroxymethylphenylsulfide (0.1 g) were stirred at reflux under nitrogen for 2 hours. Additional m-chloroperbenzoic acid (1.28 g), and sodium bicarbonate (0.063 g) were added and reflux was continued overnight. The reaction mixture was cooled, diluted with dichloromethane and washed with sodium bicarbonate solution. The organic layer was separated, washed (water), dried and concentrated. Chromatography, eluting with dichloromethane followed by ethyl acetate, gave the title compound as a yellow amorphous solid (0.475 g); mp 138°-140° C.; NMR: 4.12 (s,2), 6.61 (t,2), 7.12 (s,1), 7.33 (d,1), 7.49 (m,2) 7.62 (d,1), 7.79 (d,1), 8.42 (d,1); MS: m/z=374(M+1). Analysis for C15H11F4N3O4 : Calculated: C, 48.27; H, 2.97; N, 11.26; Found: C, 48.30; H, 2.97; N, 11.25.

reactant | 2-(2,2-bis(difluoromethyl)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-4-yl)pyridine | 1.32 g | FC(C1(OC2=C(N(C1)C1=NC=CC=C1)C=C(C=C2)[N+](=O)[O-])C(F)F)F | C15H11F4N3O3
reactant | sodium bicarbonate | 1.26 g | C([O-])(O)=O.[Na+]
reactant | butylhydroxymethylphenylsulfide | 0.1 g | C(CCC)C=1C(=C(C=CC1)SC1=C(C(=CC=C1)CCCC)CO)CO | C22H30O2S
reactant | m-chloroperbenzoic acid | 1.28 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 0.063 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 12 mL | O | H2O
solvent | 1,2-dichloroethane | 12 mL | ClCCCl | C2H4Cl2
product | 2-(2,2-bis(Difluoromethyl)-6-nitro-3,4-dihydro-2H-1,4-benzoxazine-4-yl)pyridine-N-oxide | 0.475 g | FC(C1(OC2=C(N(C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)[N+](=O)[O-])C(F)F)F | C15H11F4N3O4
